US07592363B2
ETHYL 3-({3-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}ETHYNYL)BENZOATE
A solution of 3-(3-ethynylphenyl)-2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazole (0.103 g, 0.24 mmol), ethyl 3-iodobenzoate (0.042 mL, 0.25 mmol), tetrabutylammonium acetate (0.108 g, 0.36 mmol) and 8.8 mg of tris-(dibenzylidineacetone)-dipalladium in 2 mL of dry DMF was stirred at ambient temperature for 3 hours. The reaction mixture was partitioned with ethyl acetate and H2O. The organic phase was concentrated in vacuo and purified by flash chromatography (silica 60, CH2Cl2-hexane, 1:1) to give the title compound (0.065 g).

reactant | 3-(3-ethynylphenyl)-2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazole | 0.24 mmol, 0.103 g | C(#C)C=1C=C(C=CC1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F | C23H12F6N2
reactant | ethyl 3-iodobenzoate | 0.25 mmol, 0.042 mL | IC=1C=C(C(=O)OCC)C=CC1 | C9H9IO2
catalyst | tetrabutylammonium acetate | 0.36 mmol, 0.108 g | C(C)(=O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | ETHYL 3-({3-[2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOL-3-YL]PHENYL}ETHYNYL)BENZOATE | 0.065 g | FC1=C(CN2N=C3C(=CC=CC3=C2C=2C=C(C=CC2)C#CC=2C=C(C(=O)OCC)C=CC2)C(F)(F)F)C(=CC(=C1)F)F | C32H20F6N2O2
